US04929614
Preparation of 5-chloro-7-(2-fluorobenzoyl)indoline.
44 g (182 mmol) of 7-(2-fluorobenzoyl)indoline and 800 ml of methylene chloride are poured into a reactor equipped with a central stirrer, a condenser provided with a calcium chloride guard tube, a dipping thermometer, a nitrogen inlet and a pressure-equalizing dropping funnel. 27.9 g (182 mmol) of N-chlorosuccinimide are added gradually and the mixture is stirred over a warm temperature. The mixture is washed with saturated sodium bicarbonate solution and then with water, dried and evaporated. It is chromatographed on silica, eluting with methylene chloride. 42 g (84% yield) are obtained. The product is obtained in the form of a foam which has no definite melting point. TLC: H2CCl2Rf=0.70.

reactant | 7-(2-fluorobenzoyl)indoline | 182 mmol, 44 g | FC1=C(C(=O)C=2C=CC=C3CCNC23)C=CC=C1 | C15H12FNO
reactant | N-chlorosuccinimide | 182 mmol, 27.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-7-(2-fluorobenzoyl)indoline | 84% yield | ClC=1C=C2CCNC2=C(C1)C(C1=C(C=CC=C1)F)=O | C15H11ClFNO
